US07615642B2
Step B: 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrrole-3-carboxylic acid
Lithium hydroxide (25 mg, 1.0 mmol) was added to mixture of methyl 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrrole-3-carboxylate (90 mg, 0.2 mmol) in 10 mL of THF-H2O (7:3) at 0° C. The reaction mixture was stirred overnight at room temperature and acidified to pH=1. Upon evaporation and dried in vacuo, the residue was dissolved in DMF (10 mL) and then used directly for step A. Purity:>80% (checked by LCMS). MS (ESI) (M+H)+=445.99.

reactant | Lithium hydroxide | 1.0 mmol, 25 mg | [OH-].[Li+]
reactant | methyl 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrrole-3-carboxylate | 0.2 mmol, 90 mg | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2C=C(C=C2)C(=O)OC | C23H29N3O5S
solvent | THF H2O | 10 mL | C1CCOC1.O
product | 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrrole-3-carboxylic acid | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2C=C(C=C2)C(=O)O | C22H27N3O5S
